US05583221
A cooled (-20° C.) solution of 8-ketotricyclo[5.2.1.0]decane (7.51 g, 50 mmol) in anhydrous tetrahydrofuran (50 mL) under nitrogen was treated with n-butyl nitrite (6.70 mL, 5.92 g, 57.3 mmol), then with solid potassium t-butoxide (11.22 g, 100 mmol) in portions at a rate to keep the pot temperature below -10° C. The red mixture was stirred at -10° C. for one h. and at 5° C. for 3.5 h, then it was quenched by addition to ice water (125 mL). The mixture was treated with concentrated hydrochloric acid (11 mL, 132 mmol), then the aqueous solution was extracted with methylene chloride (150 mL, then 2×100 mL). The combined organic solution was washed with saturated aqueous sodium bicarbonate (2×100 mL), water (100 mL), dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel (eluted with 5% acetone/methylene chloride) to afford tricyclo[5.2.1.0 (2,6)]decan-8,9-dione, oxime (4.88 g, 54.5%) as a white solid.

reactant | decane | 50 mmol, 7.51 g | CCCCCCCCCC | C10H22
reactant | n-butyl nitrite | 57.3 mmol, 6.70 mL, 5.92 g | N(=O)OCCCC | C4H9NO2
reactant | potassium t-butoxide | 100 mmol, 11.22 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | 132 mmol, 11 mL | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | tricyclo[5.2.1.0 (2,6)]decan-8,9-dione | C12C3CCCC3C(C(C1=O)=O)C2 | C10H12O2
